US06667301B2
A mixture of 4-(4-{[(S)-2-(4-methanesulfonylphenyl)-1-methylethyl]-propylamino}butyl)-3-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.9 g, 1.75 mmole) and 3N hydrochloric acid (4 mL) was warmed to 50° C. The reaction mixture was stirred at room temperature for 30 minutes, and the pH was adjusted to 10 with saturated sodium carbonate. The mixture was extracted with ethyl acetate (30 mL), and the organic phase was dried (magnesium sulfate), and concentrated. The residue was dissolved in diethyl ether (10 mL) and 1 M hydrogen chloride in diethyl ether (2 mL) was added. The precipitate was collected, washed with diethyl ether and hexane, and dried in vacuo to give 1-(4-{[(S)-2-(-4-methanesulfonyl-phenyl)-1-methylethyl]propylamino}butyl)-[1,4]diazepan-2-one, dihydrochloride salt (0.49 g),149, M+H=424.

reactant | 4-(4-{[(S)-2-(4-methanesulfonylphenyl)-1-methylethyl]-propylamino}butyl)-3-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.75 mmole, 0.9 g | C(C)(C)(C)OC(=O)N1CC(N(CCC1)CCCCN(CCC)[C@H](CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C27H45N3O5S
reactant | hydrochloric acid | 3N, 4 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 1-(4-{[(S)-2-(-4-methanesulfonyl-phenyl)-1-methylethyl]propylamino}butyl)-[1,4]diazepan-2-one, dihydrochloride salt | 0.49 g | Cl.Cl.CS(=O)(=O)C1=CC=C(C=C1)C[C@H](C)N(CCCCN1C(CNCCC1)=O)CCC | InChI=1S/C22H37N3O3S.2ClH/c1-4-13-24(14-5-6-15-25-16-7-12-23-18-22(25)26)19(2)17-20-8-10-21(11-9-20)29(3,27)28;;/h8-11,19,23H,4-7,12-18H2,1-3H3;2*1H/t19-;;/m0../s1
